US07320995B2
1-isopropylsulfonyl-2-amino-6-(1-(4-methoxybenzyl)-2-(hydroxymethyl)-4-(phenyl)-imidazol-5-yl)-benzimidazole
To a solution of 1-(4-methoxybenzyl)-2-tert-butyldimethylsilyloxymethyl-4-(phenyl)-5-iodoimidazole (50 mg, 0.0935 mmol) in dry toluene (0.8 mL) previously bubbled with a stream of nitrogen, add PdCl2(PPh3)2 (4.5 mg, 0.00641 mmol) in one portion. After 5 minutes, add a suspension of 1-isopropylsulfonyl-2-amino-benzimidazole-6-boronic acid (40 mg, 0.141 mmol) in ethanol (0.8 mL) previously bubbled with a stream of nitrogen, followed by sodium carbonate (2M in water, 0.32 mL, 0.640 mmol). Stir the mixture for 2.5 hours at 100° C., cool to room temperature, dilute with 10% HCl (5 mL), extract with EtOAc (15 mL), dry (Na2SO4), and concentrate in vacuo. Purify the residue by flash chromatography (SiO2, CH2Cl2/MeOH 19:1→5:1), dissolve the material obtained in MeCN (0.5 mL), and treat with HF (48% in H2O, 0.12 mL, 3.31 mmol) at room temperature for 4 hours. Dilute the mixture with EtOAc (15 nm), wash with saturated NaHCO3 (5 mL), dry (Na2SO4), and concentrate in vacuo. Purify the residue by flash chromatography (SiO2, CH2Cl2/MeCN/MeOH 85:15:5) to provide 18 mg (36% yield). MS (MS+): m/z=532 (M+H)+

reactant | 1-(4-methoxybenzyl)-2-tert-butyldimethylsilyloxymethyl-4-(phenyl)-5-iodoimidazole | 0.0935 mmol, 50 mg | COC1=CC=C(CN2C(=NC(=C2I)C2=CC=CC=C2)CO[Si](C)(C)C(C)(C)C)C=C1 | C24H31IN2O2Si
reactant | 1-isopropylsulfonyl-2-amino-benzimidazole-6-boronic acid | 0.141 mmol, 40 mg | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)B(O)O)N | C10H14BN3O4S
reactant | sodium carbonate | 0.640 mmol, 2M, 0.32 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 0.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.8 mL | C(C)O | C2H6O
solvent | HCl | 5 mL | Cl | ClH
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.00641 mmol, 4.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-isopropylsulfonyl-2-amino-6-(1-(4-methoxybenzyl)-2-(hydroxymethyl)-4-(phenyl)-imidazol-5-yl)-benzimidazole | 36% yield | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=C(N=C(N2CC2=CC=C(C=C2)OC)CO)C2=CC=CC=C2)N | C28H29N5O4S
